US07989454B2
4-{2-(2-Carboxy-ethyl)-3-[6-(5-dimethylcarbamoyl-3′-fluoro-4′-methoxy-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid
The title compound was prepared according to the general procedure described in Steps 3 and 4 of Method F starting from 4-[3-[6-(3-bromo-5-dimethylcarbamoyl-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester and 3-fluoro-4-methoxyphenylboronic acid. LC/MS indicated a purity of 100% as measured by UV 214 nM.

reactant | 4-[3-[6-(3-bromo-5-dimethylcarbamoyl-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(N(C)C)=O)Br)CCC(=O)OCC)=O | C32H44BrNO7
reactant | 3-fluoro-4-methoxyphenylboronic acid | FC=1C=C(C=CC1OC)B(O)O | C7H8BFO3
product | 4-{2-(2-Carboxy-ethyl)-3-[6-(5-dimethylcarbamoyl-3′-fluoro-4′-methoxy-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)OC)F | C35H42FNO8
